US04331670
Preparation of N-(3,5-dichloro-2-pyridyl)-2,6-dinitro-4-trifluoromethylaniline
In 20 ml. of dimethylformamide, 1.65 g. of 2-amino-3,5-dichloropyridine was dissolved and 1.0 g. of powdery potassium hydroxide was gradually added with stirring. After the addition, 2.7 g. of 2,6-dinitro-4-trifluoromethylchlorobenzene was added at 30° C. during 5 minutes and the reaction was continued for about 3 hours. The reaction mixture was acidified with conc. HCl and the product was extracted with methylenechloride. The extracted layer was washed with water and dehydrated. The solvent was distilled off and the product was separated by a silica gel column with an eluent of toluene and the solvent was distilled off to obtain 2.8 g. of the object compound having the melting point of 85° to 87° C.

reactant | 2-amino-3,5-dichloropyridine | NC1=NC=C(C=C1Cl)Cl | C5H4Cl2N2
reactant | potassium hydroxide | [OH-].[K+]
reactant | 2,6-dinitro-4-trifluoromethylchlorobenzene | [N+](=O)([O-])C1=C(C(=CC(=C1)C(F)(F)F)[N+](=O)[O-])Cl | C7H2ClF3N2O4
reactant | HCl | Cl | ClH
solvent | dimethylformamide | CN(C=O)C | C3H7NO
product | N-(3,5-dichloro-2-pyridyl)-2,6-dinitro-4-trifluoromethylaniline | ClC=1C(=NC=C(C1)Cl)NC1=C(C=C(C=C1[N+](=O)[O-])C(F)(F)F)[N+](=O)[O-] | C12H5Cl2F3N4O4
